US05049669
A solution of mercuric acetate (0.70 g) in acetic acid (11 cc) is added dropwise during a period of 10 minutes to a solution of 10-[(2RS)-1-diethylamino-2-propyl]-N-ethyl-2-phenothiazinecarbothioamide (0.87 g) in glacial acetic acid (11 cc). The reaction mixture is stirred for 90 minutes at 25° C. and then filtered on sintered glass covered with supercel. The celite is washed with acetic acid (2×2 cc) and the combined filtrates are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give a residue which is diluted in ethyl acetate (50 cc). The organic phase is washed with 1 N sodium hydroxide (20 cc) and distilled water (3×20 cc) and then with brine (1×20 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give a residue which is purified by chromatography on a column (height: 15.5 cm; diameter: 1.6 cm) of alumina (0.05-0.16 mm), eluting with mixtures of cyclohexane and ethyl acetate in proportions (by volume) of 80:20 (375 cc) and 75:25 (3 liters), collecting 25-cc fractions. The first three liters are discarded and fractions 3 to 12 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give 10-[(2RS)-1-diethylamino-2-propyl]-N-ethyl-2-phenothiazinecarboxamide (0.54 g).

reactant | 10-[(2RS)-1-diethylamino-2-propyl]-N-ethyl-2-phenothiazinecarbothioamide | 0.87 g | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCC)=S)CC | C22H29N3S2
reactant | acetic acid | 11 cc | C(C)(=O)O | C2H4O2
reactant | acetic acid | 11 cc | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 cc | C(C)(=O)OCC | C4H8O2
product | 10-[(2RS)-1-diethylamino-2-propyl]-N-ethyl-2-phenothiazinecarboxamide | 0.54 g | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)NCC)CC | C22H29N3OS
